US07615642B2
2-tert-Butyl-5-[(3-methyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (371 mg, 1.0 mmol), 3-methyl-1H-pyrazole (164 mg, 2.0 mmol) and DMAP (367 mg, 3.0 mmol) in MeCN (10 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 116 mg (28%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.39-1.57 (m, 4 H), 1.59 (s, 9 H), 2.17 (s, 3 H), 2.23-2.33 (m, 1 H), 3.27-3.36 (m, 2 H), 3.88 (m, 2 H), 4.42 (d, J=7.62 Hz, 2 H), 6.31 (d, J=2.54 Hz, 1 H), 7.88-7.99 (m, 2 H), 8.18 (d, J=2.73 Hz, 1 H), 8.28 (d, J=1.76 Hz, 1 H); MS (ESI) (M+H)+=416.8.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 1.0 mmol, 371 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | 3-methyl-1H-pyrazole | 2.0 mmol, 164 mg | CC1=NNC=C1 | C4H6N2
catalyst | DMAP | 3.0 mmol, 367 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-[(3-methyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | 116 mg, 28% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=C(C=C2)C | C21H28N4O3S
